US09212165B2
Step 1: Methyl 3-[(3-chlorobenzoyl)amino]adamantane-1-carboxylate
To a solution of 3-amino-adamantane-1-carboxylic acid methyl ester HCl salt (Hermogenes N. J. et al.; U.S. Pat. No. 7,947,680 B2) (160 mg, 0.65 mmol) and 3-chlorobenzoic acid (130 mg, 0.78 mmol) in DMF (5 mL) was added DIEA (340 mg, 2.6 mmol) and HATU (300 mg, 0.78 mmol) under N2. After stirring at room temperature for an hour, the reaction was quenched with brine, the aqueous layer was extracted with ethyl acetate (3×20 mL), and the combined organic layer was washed with brine, dried over Na2SO4 and concentrated under reduced pressure. The resulting residue was purified by column chromatography (silica gel, petroleum ether/ethyl acetate=5/1) to afford 220 mg (97%) of the title compound, methyl 3[(3-chlorobenzoyl)amino]adamantane-1-carboxylate, as a white solid. ESI-MS m/z: 348 (M+H)+.

reactant | 3-amino-adamantane-1-carboxylic acid methyl ester HCl salt | Cl.COC(=O)C12CC3(CC(CC(C1)C3)C2)N
reactant | 3-chlorobenzoic acid | 0.78 mmol, 130 mg | ClC=1C=C(C(=O)O)C=CC1 | C7H5ClO2
reactant | DIEA | 2.6 mmol, 340 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 0.78 mmol, 300 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | Methyl 3-[(3-chlorobenzoyl)amino]adamantane-1-carboxylate | 220 mg, 97% | ClC=1C=C(C(=O)NC23CC4(CC(CC(C2)C4)C3)C(=O)OC)C=CC1 | C19H22ClNO3
